US05250679
To a mechanically stirred solution of 26.3 grams of 5-iodo-2-amino benzoic acid (0.1 mol), 10.6 grams of sodium carbonate (0.1 mol), and 250 mL water, cooled to 0° C., was slowly added, via an addition funnel, 80 mL of a 1.93M solution of phosgene in toluene. After 2 hours, the precipitated product was isolated by filtration. The solids were washed with 200 mL water, 300 mL of a 1:1 mixture ethanol and ether, 200 mL of ether, and dried under vacuum to yield 24.3 grams (84%) of 5-iodoisatoic anhydride (264°-268° C., decomposition).

reactant | 5-iodo-2-amino benzoic acid | 0.1 mol, 26.3 grams | IC=1C=CC(=C(C(=O)O)C1)N | C7H6INO2
reactant | sodium carbonate | 0.1 mol, 10.6 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 250 mL | O | H2O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-iodoisatoic anhydride | 24.3 grams, 84% | IC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4INO3
